US06743785B2
2-(1H-Indol-6-yl)Ethylamine
To a solution of 6-(2-Nitrovinyl)-1H-indole (1.0 g) in tetrahydrofuran (100 mL) was added portionwise lithium aluminum hydride (0.95 g) and the resulting mixture stirred at reflux for 1 hour. The reaction mixture was treated sequentially with water (0.95 mL), 15% sodium hydroxide (0.95 mL), and water (2.85 mL). The resulting suspension was filtered and the filtrate diluted with ethyl acetate (200 mL), washed with saturated aqueous sodium bicarbonate (100 mL), saturated aqueous sodium chloride, dried over sodium sulfate, filtered and the filtrate concentrated under reduced pressure. The residue was subjected to silica gel chromatography. Fractions containing product were combined and concentrated under reduced pressure to provide 0.525 g (62%) of the desired compound.

reactant | 6-(2-Nitrovinyl)-1H-indole | 1.0 g | [N+](=O)([O-])C=CC1=CC=C2C=CNC2=C1 | C10H8N2O2
reactant | lithium aluminum hydride | 0.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.95 mL | O | H2O
reactant | sodium hydroxide | 0.95 mL | [OH-].[Na+]
reactant | water | 2.85 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(1H-Indol-6-yl)Ethylamine | 0.525 g, 62% | N1C=CC2=CC=C(C=C12)CCN | C10H12N2
